US04533655
D. ZTyr(Bz)EtD-AlaNH(CH2)3Ph
A solution of N2 -ethyl-N-(3-phenylpropyl)-D-alaninamide (2.71 g.), N-benzyloxycarbonyl-O-benzyl-L-tyrosine pentafluorophenyl ester (5.71 g.) and diisopropylethylamine (1.29 g.) in tetrahydrofuran (65 ml.) was stirred overnight at room temperature. Dimethylformamide (10 ml.) and more N-benzyloxycarbonyl-O-benzyl-L-tyrosine pentafluorophenyl ester (5.71 g.) were added, stirring was continued over the weekend, and the mixture was concentrated. A solution of the residual syrup in ethyl acetate was washed with water, dilute hydrochloric acid, aqueous sodium chloride, aqueous sodium hydroxide (1N, 20 ml.) and aqueous sodium chloride again, then dried and stripped of ethyl acetate. High pressure liquid chromatography of the residue (9.2 g.) on silica gel (350 g.) using hexane-ethyl acetate (55:45) as the eluant (200 ml./min.) afforded in the fractions having a k' value range of 2.5-4.5 (N-benzyloxycarbonyl-O-benzyl-L-tyrosyl)-N2 -ethyl-N-(3-phenylpropyl)-D-alaninamide as a syrup which crystallized (2.291 g.).

reactant | N2 ethyl-N-(3-phenylpropyl)-D-alaninamide | 2.71 g | N#N.C(C)N[C@H](C)C(=O)NCCCC1=CC=CC=C1
reactant | N-benzyloxycarbonyl-O-benzyl-L-tyrosine pentafluorophenyl ester | 5.71 g | FC1=C(C(=C(C(=C1OC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O)F)F)F)F | C30H22F5NO5
reactant | diisopropylethylamine | 1.29 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-benzyloxycarbonyl-O-benzyl-L-tyrosine pentafluorophenyl ester | 5.71 g | FC1=C(C(=C(C(=C1OC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O)F)F)F)F | C30H22F5NO5
reactant | (N-benzyloxycarbonyl-O-benzyl-L-tyrosyl)-N2 -ethyl-N-(3-phenylpropyl)-D-alaninamide | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N([C@H](C)C(=O)NCCCC1=CC=CC=C1)CC | C38H43N3O5
solvent | tetrahydrofuran | 65 ml | O1CCCC1 | C4H8O
solvent | Dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ZTyr(Bz)EtD-AlaNH(CH2)3Ph | N([C@@H](CC1=CC=C(C=C1)OC(=O)C1=CC=CC=C1)C(=O)N([C@H](C)C(=O)NCCCC1=CC=CC=C1)CC)C(=O)OCC1=CC=CC=C1 | C38H41N3O6
